US07375131B2
b) 5-Benzyl-2-ureido-thiophene-3-carboxylic Acid Amide
Chlorosulfonyl isocyanate (0.09 mL, 1.03 mmol) was added dropwise under nitrogen to a solution of 2-amino-5-benzyl-thiophene-3-carboxylic acid amide (0.2 g, 0.86 mmol) in dry dichloromethane (9 mL) at 0° C. and. The temperature of the resulting stirred reaction mixture was slowly raised from 0° C. to room temperature over 1 h. Once the LC-MS showed no starting material remaining, the reaction was quenched with water (1 mL) and stirred for 10 additional min. The solvent was removed under vacuum and the residue was taken up into DMSO (2 mL) and purified utilizing a Gilson preparative HPLC to give the above titled compound as a light brown solid (0.16 g, 67%). LC-MS [M+H]+ m/z 276.

reactant | Chlorosulfonyl isocyanate | 1.03 mmol, 0.09 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-amino-5-benzyl-thiophene-3-carboxylic acid amide | 0.86 mmol, 0.2 g | NC=1SC(=CC1C(=O)N)CC1=CC=CC=C1 | C12H12N2OS
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | 5-Benzyl-2-ureido-thiophene-3-carboxylic Acid Amide | 0.16 g, 67% | C(C1=CC=CC=C1)C1=CC(=C(S1)NC(=O)N)C(=O)N | C13H13N3O2S
